US04359428
50 parts of 2,6-difluorobenzonitrile and 40 parts by volume of ammonia are stirred for 10 hours at 100° C. in a closed vessel. The reaction mixture is taken up in methylene chloride, the solid is filtered off, the organic phase is extracted three times by shaking with water and is dried over sodium sulfate, the solvent is stripped off and the residue is dried under reduced pressure. 48 parts (98.1% of theory) of 2-amino-6-fluoro-benzonitrile, of solidification point 125°-128° C., are obtained.

reactant | 2,6-difluorobenzonitrile | FC1=C(C#N)C(=CC=C1)F | C7H3F2N
reactant | ammonia | N | H3N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-amino-6-fluoro-benzonitrile | 98.1% | NC1=C(C#N)C(=CC=C1)F | C7H5FN2
